US08022206B2
3-(1-Hydroxyethyl)benzoic acid methyl ester
General Procedure EE: Into the EtOH (70 ml) solution of methyl-3-acetylbenzoate (771 mg, 3.98 mmol) was added sodium borohydride (232 mg, 6.09 mmol). The mixture was stirred at rt under an atmosphere of nitrogen for one hour. After that time, the mixture was quenched with saturated NH4Cl followed by water, extracted with EtOAc (3×50 ml). The extracts were washed with water (50 ml), brine (50 ml), dried over MgSO4. After concentrated in vacuo, a beige oil (6269-42, 700 mg) was obtained. It was purified by chromatography on silica gel (25 g) eluting with 20% (200 ml), 30% (200 ml) and 40% EtOAc/hexane (200 ml) to give the title compound as a colorless oil (504 mg, 67% yield). TLC: Rf=0.41 (eluting with 30% EtOAc/hexane). 1H NMR (400 MHz, CDCl3): δ=1.52 (d, J=6.4 Hz, 3H), 1.89 (d, J=4.0 Hz, 1H), 3.92 (s, 3H), 4.93-5.01 (m, 1H), 7.43 (t, J=8.0 Hz, 1H), 7.59 (md, J=8.0 Hz, 1H), 7.95 (td, J=1.6 & 8.0 Hz, 1H), 8.03-8.05 (m, 1H). MS (ES+): m/z 181.19 [MH+]. HPLC: tR=2.51 min (polar—5 min, ZQ3).

reactant | methyl-3-acetylbenzoate | 3.98 mmol, 771 mg | COC(C1=CC(=CC=C1)C(C)=O)=O | C10H10O3
reactant | sodium borohydride | 6.09 mmol, 232 mg | [BH4-].[Na+]
solvent | EtOH | 70 ml | CCO | C2H6O
product | 3-(1-Hydroxyethyl)benzoic acid methyl ester | 504 mg, 67% yield | COC(C1=CC(=CC=C1)C(C)O)=O | C10H12O3
